US08975254B2
f) (R)—N-(1-(3-(4-cyano-3-(trifluoromethyl)phenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(furan-2-yl)-1H-pyrazole-5-carboxamide
(The title compound was prepared from (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-(trifluoromethyl)benzonitrile (0.080 g, 0.272 mg) and 3-(furan-2-yl)-1H-pyrazole-5-carboxylic acid (0.053 g, 0.299 mmol) using the method of Example 34(d) affording 0.092 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.17 (d, 3H), 4.30-4.39 (m, 2H), 4.42-4.51 (m, 1H), 6.61 (m, 1H), 7.03 (d, 1H), 7.76 (m, 1H), 7.86 (d, 1H), 8.17 (d, 1H), 8.27 (m, 2H), 8.34-8.36 (m, 1H), 13.69 (m, 1H).

reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-(trifluoromethyl)benzonitrile | 0.080 g | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)C(F)(F)F)C | C14H13F3N4
reactant | 3-(furan-2-yl)-1H-pyrazole-5-carboxylic acid | 0.299 mmol, 0.053 g | O1C(=CC=C1)C1=NNC(=C1)C(=O)O | C8H6N2O3
product | (R)—N-(1-(3-(4-cyano-3-(trifluoromethyl)phenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(furan-2-yl)-1H-pyrazole-5-carboxamide | 0.092 g | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)C[C@@H](C)NC(=O)C1=CC(=NN1)C=1OC=CC1)C(F)(F)F | C22H17F3N6O2
